US09278989B2
The premix test was carried out as follows. First, into a screw tube, isopropyl myristate (21 g) was added and heated at 80° C. Into the screw tube, a 10 wt % dispersion liquid of G4 in propylene glycol (6.6 g) heated at 80° C. was added and made into a homogeneous solution, and then water (9 g) heated at 70° C. was added. The mixture was stirred with a homogenizer for 10 minutes, thus yielding a water/isopropyl myristate dispersion gel.

reactant | isopropyl myristate | 21 g | C(CCCCCCCCCCCCC)(=O)OC(C)C | C17H34O2
reactant | water | 9 g | O | H2O
solvent | propylene glycol | 6.6 g | C(C(C)O)O | C3H8O2
product | water isopropyl myristate | O.C(CCCCCCCCCCCCC)(=O)OC(C)C | InChI=1S/C17H34O2.H2O/c1-4-5-6-7-8-9-10-11-12-13-14-15-17(18)19-16(2)3;/h16H,4-15H2,1-3H3;1H2
